US07994164B2
Rac-trans-3-Benzylamino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester
Stir a mixture of crude rac-trans-3-bromo-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (75.0 g) and aqueous 1 N sodium hydroxide (400 mL) at room temperature for 2 h. Add benzylamine (0.86 mol, 80.0 g,), stir at 65° C. for 4.5 h and then cool to 0° C. Collect the resultant precipitates by filtration, wash with water and isopropyl ether and dry to obtain the title compound as a white solid (50.0 g, 63%). 1H NMR (300 MHz, CDCl3) δ 7.21-7.38 (m, 5H), 4.06-4.15 (m, 1H), 3.84 (d, J=5.0 Hz, 2H), 3.57-3.75 (m, 2H), 3.10-3.35 (m, 3H), 1.65 (br s, 2H), 1.46 (s, 9H).

reactant | rac-trans-3-bromo-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 75.0 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)O)Br | C9H16BrNO3
reactant | benzylamine | 0.86 mol, 80.0 g | C(C1=CC=CC=C1)N | C7H9N
solvent | sodium hydroxide | 1 N, 400 mL | [OH-].[Na+]
product | Rac-trans-3-Benzylamino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 50.0 g, 63% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)O)NCC1=CC=CC=C1 | C16H24N2O3
